US05620997
6-phenyl-2-(2-pyridin-2-yl-ethyl)-isothiazolo[5,4-d] pyrimidin-3-one
Using the procedure of Example 20, 14.0 g (41.6 mmol) of 4-mercapto-2-phenyl-pyrimidine-5-carboxylic acid (2-pyridin-2-yl-ethyl)-amide were treated with 10.6 g (41.7 mmol) of iodine to give 12.7 g of the title compound after recrystallization from ethanol, mp 132°-133° C.

reactant | 4-mercapto-2-phenyl-pyrimidine-5-carboxylic acid (2-pyridin-2-yl-ethyl)-amide | 41.6 mmol, 14.0 g | N1=C(C=CC=C1)CCNC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)S | C18H16N4OS
reactant | iodine | 41.7 mmol, 10.6 g | II | I2
product | 6-phenyl-2-(2-pyridin-2-yl-ethyl)-isothiazolo[5,4-d] pyrimidin-3-one | 12.7 g | C1(=CC=CC=C1)C1=NC=C2C(=N1)SN(C2=O)CCC2=NC=CC=C2 | C18H14N4OS
